US09326987B2
6-Bromo-4-(5-{[(2R,6S)-2,6-dimethyl-4-morpholinyl]methyl}-1,3,4-oxadiazol-2-yl)-1-[(4-methylphenyl)sulfonyl]-1H-indazole
6-Bromo-N′-{[(2R,6S)-2,6-dimethyl-4-morpholinyl]acetyl}-1-[(4-methylphenyl)sulfonyl]-1H-indazole-4-carbohydrazide (950 mg, 1.683 mmol) was dried over phosphorus pentoxide in a desicator overnight. 6-bromo-N′-{[(2R,6S)-2,6-dimethyl-4-morpholinyl]acetyl}-1-[(4-methylphenyl)sulfonyl]-1H-indazole-4-carbohydrazide (950 mg, 1.683 mmol) and methoxycarbonylsulfamoyl)triethylammonium hydroxide (602 mg, 2.52 mmol) were suspended in anhydrous tetrahydrofuran (20 ml) and heated to 75° C. for 2 h. The solvent was removed in vacuo and the residue partitioned between dichloromethane (15 ml) and saturated sodium bicarbonate solution (15 ml). The layers were separated (hydrophobic frit), the aqueous washed with further dichloromethane (5 ml) and the combined organics concentrated in vacuo to give a yellow solid. This was purified by column chromatography, loading in dichloromethane onto a silica cartridge 50 g, using a 0-100% ethyl acetate-cyclohexane over 40 mins. The appropriate fractions were combined and evaporated in vacuo to give the title compound as a white solid (680 mg).

reactant | 6-Bromo-N′-{[(2R,6S)-2,6-dimethyl-4-morpholinyl]acetyl}-1-[(4-methylphenyl)sulfonyl]-1H-indazole-4-carbohydrazide | 1.683 mmol, 950 mg | BrC=1C=C(C=2C=NN(C2C1)S(=O)(=O)C1=CC=C(C=C1)C)C(=O)NNC(CN1C[C@H](O[C@H](C1)C)C)=O | C23H26BrN5O5S
reactant | phosphorus pentoxide | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | 6-bromo-N′-{[(2R,6S)-2,6-dimethyl-4-morpholinyl]acetyl}-1-[(4-methylphenyl)sulfonyl]-1H-indazole-4-carbohydrazide | 1.683 mmol, 950 mg | BrC=1C=C(C=2C=NN(C2C1)S(=O)(=O)C1=CC=C(C=C1)C)C(=O)NNC(CN1C[C@H](O[C@H](C1)C)C)=O | C23H26BrN5O5S
reactant | triethylammonium hydroxide | 2.52 mmol, 602 mg | [OH-].C(C)[NH+](CC)CC
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 6-Bromo-4-(5-{[(2R,6S)-2,6-dimethyl-4-morpholinyl]methyl}-1,3,4-oxadiazol-2-yl)-1-[(4-methylphenyl)sulfonyl]-1H-indazole | 680 mg | BrC1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=C(C=C1)C)C=1OC(=NN1)CN1C[C@H](O[C@H](C1)C)C | C23H24BrN5O4S
